US05340831
Preparation of 3,4-dimethylphenethyl bromide
Phosphorus tribromide (0.82 g) was added dropwise to a solution of 3,4-dimethylphenethyl alcohol (1.27 g--see Preparation 17) in carbon tetrachloride (10 ml). The mixture was heated under reflux for 2.5 hours then cooled to room temperature and basified (pit 8) by the dropwise addition of 10% aqueous sodium carbonate (5 ml). The mixture was then diluted with water (20 ml) and extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give the title compound as a colourless oil, yield, 0.5g.

reactant | Phosphorus tribromide | 0.82 g | P(Br)(Br)Br | Br3P
reactant | 3,4-dimethylphenethyl alcohol | 1.27 g | CC=1C=C(CCO)C=CC1C | C10H14O
reactant | sodium carbonate | 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 20 ml | O | H2O
product | 3,4-dimethylphenethyl bromide | CC=1C=C(CCBr)C=CC1C | C10H13Br
